US07585885B2
(S)-2-sec-Butylamino-6-(propane-1-sulfinyl)-isonicotinic acid methyl ester
Add sodium perborate monohydrate (0.133 g, 1.33 mmol) to a cooled solution of (S)-2-sec-butylamino-6-propylsulfanyl-isonicotinic acid methyl ester (0.396 g, 1.40 mmol) in acetic acid (4 mL). Stir at room temperature overnight and concentrate. Dissolve the residue in ethyl acetate and wash the solution with aqueous sodium bicarbonate, saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with 30:70 ethyl acetate:hexanes) to give the title compound (0.230 g, 55%).

reactant | sodium perborate monohydrate | 1.33 mmol, 0.133 g | B(=O)O[O-].O.[Na+]
reactant | (S)-2-sec-butylamino-6-propylsulfanyl-isonicotinic acid methyl ester | 1.40 mmol, 0.396 g | COC(C1=CC(=NC(=C1)SCCC)N[C@@H](C)CC)=O | C14H22N2O2S
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
product | (S)-2-sec-Butylamino-6-(propane-1-sulfinyl)-isonicotinic acid methyl ester | 0.230 g, 55% | COC(C1=CC(=NC(=C1)[S@@](=O)CCC)NC(C)CC)=O | C14H22N2O3S
